US04740515
29.7 g (0.1 mol) of diethyl 2,4-dichlorobenzylphosphonate, 10 g (0.1 mol) of pinacolone, 12 g (0.1 mol) of potassium t-butylate and 300 ml of absolute toluene are heated at the boiling point in a nitrogen atmosphere for 20 hours. The solution is cooled, washed with 2 80 ml portions of water, dried over sodium sulphate and freed from the solvent in vacuo. After the residue has been distilled, 15 g (69.7% of theory) of 1-(2,4-dichlorophenyl)-2,3,3-trimethylbut-1-ene of boiling point 85° C. under 0.13 mbar are obtained.

reactant | diethyl 2,4-dichlorobenzylphosphonate | 0.1 mol, 29.7 g | ClC1=C(CP(OCC)(OCC)=O)C=CC(=C1)Cl | C11H15Cl2O3P
reactant | pinacolone | 0.1 mol, 10 g | CC(C(C)(C)C)=O | C6H12O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-dichlorophenyl)-2,3,3-trimethylbut-1-ene | 15 g, 69.7% | ClC1=C(C=CC(=C1)Cl)C=C(C(C)(C)C)C | C13H16Cl2
